US08383644B2
(S)-2-({(S)-7-(2-Amino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-2-methyl-propionic acid
(S)-2-({(S)-7-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-2-methyl-propionic acid methyl ester was converted to (S)-2-({(S)-7-(2-amino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]-dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-2-methyl-propionic acid methyl ester according to General Procedure N. This ester, upon hydrolysis according to General Procedure B, gave the title compound. LCMS (m/z): 927.

reactant | (S)-2-({(S)-7-(2-acetylamino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-2-methyl-propionic acid methyl ester | COC([C@@](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(C)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(N=C(S3)NC(C)=O)C)=O | C49H43Cl2N5O9S2
reactant | (S)-2-({(S)-7-(2-amino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]-dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-2-methyl-propionic acid methyl ester | COC([C@@](CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)(C)NC(=O)C1N(CC=2C=C3C(=CC2C1)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl)S(=O)(=O)C3=C(N=C(S3)N)C)=O | C47H41Cl2N5O8S2
product | (S)-2-({(S)-7-(2-Amino-4-methyl-thiazole-5-sulfonyl)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl}-amino)-3-(4′-cyano-biphenyl-4-yl)-2-methyl-propionic acid | NC=1SC(=C(N1)C)S(=O)(=O)N1CC=2C=C3C(=CC2CC1C(=O)N[C@](C(=O)O)(CC1=CC=C(C=C1)C1=CC=C(C=C1)C#N)C)OC[C@@H](O3)C3=CC=C(C=C3)OCC3=CC(=C(C=C3)Cl)Cl | C46H39Cl2N5O8S2
